US07687664B2
Methyl (3′-hydroxy-4′-methoxy-biphenyl-3-yl)acetate
1.35 g of Methyl (3′-benzyloxy-4′-methoxybiphenyl-3-yl)acetate was dissolved in a mixed solvent of 10 ml of ethyl acetate and 30 ml of ethanol, then 500 mg of 10% palladium-carbon was added thereto, and the mixture was stirred overnight in a hydrogen atmosphere. The reaction mixture was filtered through Celite, and the filtrate was concentrated. The residue was purified by silica gel column chromatography, to give 970 mg of the title compound in the 3:1 hexane-ethyl acetate fraction.

reactant | Methyl (3′-benzyloxy-4′-methoxybiphenyl-3-yl)acetate | 1.35 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C1=CC(=CC=C1)CC(=O)OC | C23H22O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 500 mg | [C].[Pd]
product | Methyl (3′-hydroxy-4′-methoxy-biphenyl-3-yl)acetate | 970 mg | OC=1C=C(C=CC1OC)C1=CC(=CC=C1)CC(=O)OC | C16H16O4
